US09376454B2
Step 7. Synthesis of tert-butyl 3-(2,3-dihydroxypropyl)-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate
To a solution of tert-butyl 3-allyl-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate (430 mg, 1.64 mmol) in tert-butanol (5 mL) and water (5 mL) was added N-methyl-morpholine N-oxide (422 mg, 3.6 mmol) followed by osmium tetroxide (20 μl, 4% aqueous solution). The resulting solution was stirred for 48 hr then diluted with ether, washed with 10% sodium thiosulphate solution and brine, dried over magnesium sulfate and concentrated to give the title compound as a solid.

reactant | tert-butyl 3-allyl-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate | 1.64 mmol, 430 mg | C(C=C)C=1C=C2C(=NC1)CN(C2)C(=O)OC(C)(C)C | C15H20N2O2
reactant | N-methyl-morpholine N-oxide | 3.6 mmol, 422 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 5 mL | O | H2O
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | ether | CCOCC | C4H10O
catalyst | osmium tetroxide | 20 μl | [Os](=O)(=O)(=O)=O
product | tert-butyl 3-(2,3-dihydroxypropyl)-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate | OC(CC=1C=C2C(=NC1)CN(C2)C(=O)OC(C)(C)C)CO | C15H22N2O4
